US07388020B2
ii) N-{4-Fluoro-2-[(2S)oxiranylmethoxy]phenyl}acetamide
(2S)-2-[(5-fluoro-2-nitrophenoxy)methyl]oxirane (0.32 g, 1.5 mmol) was dissolved in ethyl acetate (40 ml). Platinum on charcoal (0.15 g) was added, and the mixture was stirred in the atmosphere of hydrogen for 3 h at room temperature and atmospheric pressure. The catalyst was filtered and washed on the filter with ethyl acetate (10 ml). Acetic anhydride (0.31 g, 0.28 ml, 3 mmol) and ethyldi(i-propyl)amine (0.39 g, 0.52 ml, 3 mmol) were added to the solution. The reaction mixture was stirred at room temperature for 3 h, then washed with 1M sodium hydroxide (NaOH) (30 ml) and brine (30 ml), and dried with sodium sulphate (Na2SO4). Evaporation of the solvent and flash chromatography on silica gel with n-heptane/ethyl acetate (from 25 to 75%) afforded the subtitle compound (0.21 g, 0.92 mmol, 61%) as a colourless solid.

reactant | (2S)-2-[(5-fluoro-2-nitrophenoxy)methyl]oxirane | 1.5 mmol, 0.32 g | FC=1C=CC(=C(OC[C@H]2OC2)C1)[N+](=O)[O-] | C9H8FNO4
reactant | hydrogen | [H][H] | H2
reactant | Acetic anhydride | 3 mmol, 0.28 ml, 0.31 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyldi(i-propyl)amine | 3 mmol, 0.52 ml, 0.39 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Platinum on charcoal | 0.15 g | [Pt] | Pt
product | N-{4-Fluoro-2-[(2S)oxiranylmethoxy]phenyl}acetamide | 0.92 mmol, 0.21 g, 61% | FC1=CC(=C(C=C1)NC(C)=O)OC[C@H]1OC1 | C11H12FNO3
